US04851419
(a) 8-Bromomethyl-4-methoxyquinoline
4-Methoxy-8-methylquinoline (346 mg, 2 mmole), N-bromosuccinimide (365 mg, 2.05 mmole) and benzoyl peroxide (10 mg) in CCl4 (8 ml) were heated under reflux for 2.5 hours. The mixture was cooled and the succinimide was filtered off. The filtrate was washed with dilute aqueous NaHCO3 (1×) and water (1×), dried (Na2SO4) and evaporated to yield the sub-title compound as a pale yellow solid which was recrystallised from petroleum ether-cyclohexane to give colourless needles.

reactant | 4-Methoxy-8-methylquinoline | 2 mmole, 346 mg | COC1=CC=NC2=C(C=CC=C12)C | C11H11NO
reactant | N-bromosuccinimide | 2.05 mmole, 365 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-Bromomethyl-4-methoxyquinoline | BrCC=1C=CC=C2C(=CC=NC12)OC | C11H10BrNO
